US04215044
A solution of 8.52 g of the aforesaid 7-chloro-1-methyl-5-phenyl-2-trimethylsiloxy-1H-1,4-benzodiazepine in 150 ml of trichlorofluoromethane was cooled to -70° C. and 2.4 g of trifluoromethyl hypofluorite were passed into the solution over a period of 3 hours. The reaction mixture then was warmed to room temperature and evaporated to dryness under reduced pressure to give 7.60 g of crude 7-chloro-3-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one as a light tan powder: mp 130°-140° C.; 19F NMR (CCl3D) δ-161.7 ppm (d,J=57 Hz).

reactant | 7-chloro-1-methyl-5-phenyl-2-trimethylsiloxy-1H-1,4-benzodiazepine | 8.52 g | ClC=1C=CC2=C(C(=NC=C(N2C)O[Si](C)(C)C)C2=CC=CC=C2)C1 | C19H21ClN2OSi
reactant | trifluoromethyl hypofluorite | 2.4 g | FOC(F)(F)F | CF4O
solvent | trichlorofluoromethane | 150 ml | ClC(F)(Cl)Cl | CCl3F
product | 7-chloro-3-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 7.60 g | ClC=1C=CC2=C(C(=NC(C(N2C)=O)F)C2=CC=CC=C2)C1 | C16H12ClFN2O
